US07799822B2
A mixture of 2,2,2-trifluoro-1-(4-phenylpiperazin-1-yl)ethanone (1.0 g, 3.9 mmol) and chlorosulfonic acid (6 mL) was heated at 155° C. for 15 min. After cooling to RT, the mixture was poured into ice water and extracted with EtOAc. The organic layer was concentrated and purified via silica gel chromatography using 7/3 hexanes/EtOAc to obtain 4-(4-(2,2,2-trifluoroacetyl)piperazin-1-yl)benzene-1-sulfonyl chloride as a yellow solid (1.0 g, 72%). 1H NMR (400 MHz, CDCl3) δ 7.93-7.89 (m, 2H), 6.96-6.92 (m, 2H), 3.88 (t, J=5.3 Hz, 2H), 3.83 (t, J=5.1 Hz, 2H), 3.55-3.52 (m, 4H).

reactant | 2,2,2-trifluoro-1-(4-phenylpiperazin-1-yl)ethanone | 3.9 mmol, 1.0 g | FC(C(=O)N1CCN(CC1)C1=CC=CC=C1)(F)F | C12H13F3N2O
reactant | chlorosulfonic acid | 6 mL | ClS(=O)(=O)O | ClHO3S
product | 4-(4-(2,2,2-trifluoroacetyl)piperazin-1-yl)benzene-1-sulfonyl chloride | 1.0 g, 72% | FC(C(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C12H12ClF3N2O3S
